US07618985B2
A couple of drops of glacial acetic acid was added to a solution of racemic 6-(piperidin-3-yloxy)-isoquinolin-1-ylamine (52 mg, 0.214 mmol) and benzaldehyde (26 mL, 0.256 mmol) in acetonitrile (2 ml). The mixture was stirred for 20 minutes and then sodium triacetoxyborohydride (68 mg, 0.321 mmol) was added in portions. The mixture was stirred at ambient temperature for 20 h then concentrated in vacuo. The mixture was then partitioned between dichloromethane and saturated aqueous sodium hydrogencarbonate. The organic layer was separated then concentrated in vacuo to give a residue. The residue was purified by prep-HPLC to give 6-(1-benzylpiperidine-3-yloxy)isoquinolin-1-yl amine (73 mg) El-MS: m/z=334.3 [M+H]+.

reactant | racemic 6-(piperidin-3-yloxy)-isoquinolin-1-ylamine | 0.214 mmol, 52 mg | N1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1)N | C14H17N3O
reactant | benzaldehyde | 0.256 mmol, 26 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 0.321 mmol, 68 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | acetic acid | A couple of drops | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 6-(1-benzylpiperidine-3-yloxy)isoquinolin-1-yl amine | 73 mg | C(C1=CC=CC=C1)N1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1)N | C21H23N3O
